US07932277B2
To a solution of (2S,4R)-1-tert-butyl 2-methyl 4-hydroxypyrrolidine-1,2-dicarboxylate (0.50 g, 2.04 mmol) in dry THF (6 mL) was added CDI (430 mg, 2.65 mmol) in one portion and the mixture was stirred at rt for 6 h. 4-chloroisoindoline hydrochloride (0.89 g, 4.69 mmol) was then added in portions, followed by slow addition of DIEA (1.07 mL, 6.12 mmol). The reaction was stirred at rt for overnight. The reaction was diluted with 120 mL EtOAc, washed with 1N HCl (2×50 mL), water and brine (50 mL each), and dried over Na2SO4 and concentrated down to a thick brownish oil. The crude was purified by silica chromatography (eluent=hexanes/EtOAc 2:1), giving (2S,4R)-1-tert-butyl 2-methyl 4-(4-chloroisoindoline-2-carbonyloxy)pyrrolidine-1,2-dicarboxylate as a light pinkish foamy solid (0.79 g, 91% yield).

reactant | (2S,4R)-1-tert-butyl 2-methyl 4-hydroxypyrrolidine-1,2-dicarboxylate | 2.04 mmol, 0.50 g | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H19NO5
reactant | CDI | 2.65 mmol, 430 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 4-chloroisoindoline hydrochloride | 4.69 mmol, 0.89 g | Cl.ClC1=C2CNCC2=CC=C1
reactant | DIEA | 6.12 mmol, 1.07 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 120 mL | CCOC(=O)C | C4H8O2
product | (2S,4R)-1-tert-butyl 2-methyl 4-(4-chloroisoindoline-2-carbonyloxy)pyrrolidine-1,2-dicarboxylate | 0.79 g, 91% yield | ClC1=C2CN(CC2=CC=C1)C(=O)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C20H25ClN2O6
